US06174889B1
2-Benzyl-5-nitro-1H-benzimidazole
A misture of 4-nitro-o-phenylene diamine (1.54 g) and phenylacetic acid (2.04 g) in 5N aqueous HCl (16 ml) were heated at 110° C. under nitrogen for 22 hours. The mixture was cooled to room temperature and the accumulated black solid collected by filtration. This crude residue was then adsorbed onto silica and chromatographed to give the title compound (0.84 g) as a purple foam; δH CDCl3 9.70 (1H, bs), 8.15 (1H, d), 7.30 (7H, m), 4.30 (2H, s); m/z (M+1)+254.

reactant | 4-nitro-o-phenylene diamine | 1.54 g | [N+](=O)([O-])C1=CC(=C(C=C1)N)N | C6H7N3O2
reactant | phenylacetic acid | 2.04 g | C1(=CC=CC=C1)CC(=O)O | C8H8O2
solvent | HCl | 5N, 16 ml | Cl | ClH
product | 2-Benzyl-5-nitro-1H-benzimidazole | 0.84 g | C(C1=CC=CC=C1)C1=NC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C14H11N3O2
